### PR TITLE
[Merged by Bors] - feat: cocones over Sieves and FamilyOfElements for yoneda

### PR DESCRIPTION
**Pull request by nick-kuhn**
Adding some lemmas that relate a `FamilyOfElements` for yoneda presheaves with cocones over a sieve.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 1]
```diff
@@ -783,8 +783,92 @@ theorem isSheaf_bot : IsSheaf (⊥ : GrothendieckTopology C) P := fun X => by
   simp [isSheafFor_top_sieve]
 #align category_theory.presieve.is_sheaf_bot CategoryTheory.Presieve.isSheaf_bot
 
+/--
+For a presheaf of the form `yoneda.obj W`, a compatible family of Elements on a Sieve
+is the same as a co-cone. One direction is true for Presieves.
+Note: This is related to `CategoryTheory.Presheaf.conesEquivSieveCompatibleFamily`
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:789]:
```suggestion
For a presheaf of the form `yoneda.obj W`, a compatible family of elements on a sieve
is the same as a co-cone. One direction is true for presieves.
Note: This is related to `CategoryTheory.Presheaf.conesEquivSieveCompatibleFamily`
```

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 2]
```diff
@@ -783,8 +783,92 @@ theorem isSheaf_bot : IsSheaf (⊥ : GrothendieckTopology C) P := fun X => by
...
+ -/
+
+def compatibleYonedaFamily_toCocone (R : Presieve X) (W : C) (x : FamilyOfElements (yoneda.obj W) R)
+  (hx : FamilyOfElements.Compatible x):
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:793]:
```suggestion
  (hx : FamilyOfElements.Compatible x) :
```

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 3]
```diff
@@ -783,8 +783,92 @@ theorem isSheaf_bot : IsSheaf (⊥ : GrothendieckTopology C) P := fun X => by
...
+  let F₂ : (Over.mk (g₂ ≫ f₂) : Over X) ⟶ (Over.mk f₂ : Over X) := (Over.homMk g₂)
+  have hF := @Hs ⟨Over.mk (g₁ ≫ f₁), hgf₁⟩ ⟨Over.mk (g₂ ≫ f₂), hgf₂⟩ F
+  have hF₁ := @Hs ⟨Over.mk (g₁ ≫ f₁), hgf₁⟩ ⟨Over.mk f₁, hf₁⟩ F₁
+  have hF₂ := @Hs ⟨Over.mk (g₂ ≫ f₂), hgf₂⟩ ⟨Over.mk f₂, hf₂⟩ F₂
+  aesop_cat
+
+/--
+The base of a Sieve `S` is a colimit of `S` iff all yoneda-presheaves satisfy
+the sheaf condition for S
+-/
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:839]:
```suggestion
/--
The base of a sieve `S` is a colimit of `S` iff all Yoneda-presheaves satisfy
the sheaf condition for `S`.
-/
```

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 4]
```diff
@@ -783,8 +783,92 @@ theorem isSheaf_bot : IsSheaf (⊥ : GrothendieckTopology C) P := fun X => by
...
+theorem forallYonedaIsSheaf_iff_colimit (S : Sieve X) :
+    (∀ W : C, Presieve.IsSheafFor (yoneda.obj W) (S : Presieve X)) ↔
+      Nonempty (IsColimit S.arrows.cocone) := by
+  constructor
+  · intro H
+    refine Nonempty.intro ?mp.val
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:845]: You should chose a better name than `?mp.val`... (maybe `_`?)

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 5]
```diff
@@ -783,8 +783,92 @@ theorem isSheaf_bot : IsSheaf (⊥ : GrothendieckTopology C) P := fun X => by
...
+         (yonedaFamily_fromCocone_compatible S s)
+      have ht := H.choose_spec.1 f.obj.hom f.property
+      aesop_cat
+    uniq := by
+      intro s Fs HFs
+      replace H := H s.pt (yonedaFamilyOfElements_fromCocone S.arrows s)
+          (yonedaFamily_fromCocone_compatible S s)
+      apply H.choose_spec.2 Fs
+      exact fun _ f hf => HFs ⟨Over.mk f, hf⟩
+    }
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:861]:
```suggestion
      exact fun _ f hf => HFs ⟨Over.mk f, hf⟩  }
```
Otherwise the linter will complain I think.

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:789]: Can you be a little more precise with the docstring? Here you are associating a `Cocone` to any `FamilyOfElements ...`, and below the other direction, right? It is the compatibility that requires `Sieve`, not the construction?

**Review by riccardobrasca — APPROVED** [review]
LGTM, thanks!

**Comment by riccardobrasca** [comment]
Sorry, I forgot about this. Thanks!

bors merge
